Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2](=[C:3]([H:4])[H:5])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13][C:14]([H:15])([H:16])[H:17].[H:6]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13][C:14]([H:15])([H:16])[H:17],-1.90819236211
[H:1].[O:2][C:3]#[C:4][C:5][C:6]([H:7])([H:8])[O:9][H:10]>>[H:1][O:2][C:3][C:4]#[C:5][C:6]([H:7])([H:8])[O:9][H:10],-1.81414388891
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]#[C:13][H:14].[H:12]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13][H:14],-1.8133719296
[H:12].[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.35191671152
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6][O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:4]([H:5])#[C:6][O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2][H:3],4.5364519882300005
[C:3](=[C:4](\[H:5])[C:6]([H:7])([H:8])[H:9])\[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2]>>[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-6.11929689543
[H:1][C:2][O:3][C:4]([H:5])[C:7]([H:8])([H:9])[C:10]#[C:11][H:12].[H:6]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]#[C:11][H:12],-4.37328083199
[H:10].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7]/[C:8]([H:9])=[C:11](\[H:12])[C:13]([H:14])[H:15]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15],-3.5731509922300004
[H:1][C:2]=[C:3]([H:4])[C:6]([C:7]([H:8])([H:9])[H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18].[H:5]>>[H:1][C:2][C:3]([H:4])([H:5])[C:6]([C:7]([H:8])([H:9])[H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18],-1.62439020547
[C:2]([H:3])=[O:5].[O:1]([C:4][C:7]([H:8])([H:9])[C:10]([H:11])[H:12])[H:6]>>[O:1]=[C:2]([H:3])[C:4]([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12],-3.66394929416
[H:1][C:2]([H:3])=[C:4][H:5].[O:6]=[C:7][C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7][C:8]([H:9])([H:10])[H:11],-1.37683496444
[C:6]#[C:7][C:8]([H:9])([H:10])[H:11].[H:1][C:2]([H:3])[C:4]([H:5])=[C:12]([H:13])[H:14]>>[H:1][C:2]([H:3])[C:4]([H:5])([C:6]#[C:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])[H:14],-2.68382435573
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])/[C:9]([H:10])=[C:11]/[C:12]([H:13])([H:14])[H:15]>>[C:9]([H:10])([C:11])([H:14])[H:15].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:12][H:13],7.21162001385
[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])[H:7])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:8],3.96573151587
[C:7]([H:8])[O:9][C:10]([H:11])([H:12])[H:13].[O:1]=[C:2]([H:3])[C:4]([H:5])[H:6]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])[O:9][C:10]([H:11])([H:12])[H:13],-3.23322609986
[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])([H:4])/[C:5]=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11],1.33999247569
[H:1][C:2]([H:3])([H:4])[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]([H:3])([H:4])[C:5](=[C:6]([H:7])[H:8])[C:10]([H:11])([H:12])[H:13].[H:9],2.1180734529400005
[H:1]/[C:2]([O:3][C:4]([H:5])([H:6])[H:7])=[C:8]\[O:9][C:10]([H:11])[H:12]>>[H:1]/[C:2]([O:3][C:4]([H:5])([H:6])[H:7])=[C:8]1/[O:9][C:10]1([H:11])[H:12],-2.38693140075
[H:5].[O:1]=[C:2]=[C:3]([H:4])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-2.51824004823
[H:1][C:2]#[C:3][O:4][C:5][O:6][C:7][H:8].[H:9]>>[H:1][C:2]#[C:3][O:4][C:5][O:6][C:7]([H:8])[H:9],-4.74994963304
[H:1][O:2][O:3][C:4]([H:5])([H:6])/[C:7]=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1].[O:2][O:3][C:4]([H:5])([H:6])/[C:7]=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13],3.85644531716
[C:1]#[C:2][C:3]([O:4][H:5])[C:6]([H:7])=[C:8].[H:9]>>[C:1]#[C:2][C:3]([O:4][H:5])[C:6]([H:7])=[C:8][H:9],-4.13477014852
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[H:11]>>[C:4]([H:5])([H:6])=[C:7][C:8]([H:9])([H:10])[H:11].[O:1]=[C:2][H:3],1.07446962757
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]=[C:9]([H:10])[H:11]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:7][C:8]=[C:9]([H:10])[H:11].[H:6],4.71387433067
[O:1]=[C:2]([C:3][H:4])[C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11]>>[C:5]([H:6])([H:7])=[C:8]=[C:9]([H:10])[H:11].[O:1][C:2]#[C:3][H:4],-1.3630240826
[C:1]#[C:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[C:1]#[C:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11].[H:12],4.97552594881
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14]>>[C:7]([H:8])([H:9])=[C:10][C:11]([H:12])([H:13])[H:14].[O:1]=[C:2]([H:3])[C:4]([H:5])[H:6],0.9073547685
